US09079889B2
Synthesis of methyl 6-(3-(benzyloxy)-2,6-difluorophenyl)-5-fluoropicolinate
To a solution of methyl 6-bromo-5-fluoropicolinate (1.0 equiv.) in THF and water (10:1, 0.1 M) was added 3-(benzyloxy)-2,6-difluorophenylboronic acid (2.5 equiv.) and potassium fluoride (3.3 equiv.). The reaction was degassed with nitrogen, then Pd2(dba)3 (0.25 equiv.) and tri-tert-butylphosphine (0.5 equiv.) were added and the reaction was heated to 80° C. for one hour. LC/MS analysis indicated complete conversion of the starting material to product. The reaction was cooled to room temperature, then concentrated in vacuo and fused to silica gel. The crude product was purified by ISCO flash chromatography eluting with ethyl acetate and hexanes (0% to 30% ethyl acetate) to provide methyl 6-(3-(benzyloxy)-2,6-difluorophenyl)-5-fluoropicolinate as the desired product as a light yellow oil in 96% yield. LC/MS=374.0 (M+H), Rt=1.07 min.

reactant | methyl 6-bromo-5-fluoropicolinate | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)OC)F | C7H5BrFNO2
reactant | 3-(benzyloxy)-2,6-difluorophenylboronic acid | 2.5 equiv. | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)F)B(O)O)F | C13H11BF2O3
reactant | potassium fluoride | 3.3 equiv. | [F-].[K+]
reactant | tri-tert-butylphosphine | 0.5 equiv. | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 0.1 M | O | H2O
catalyst | Pd2(dba)3 | 0.25 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 6-(3-(benzyloxy)-2,6-difluorophenyl)-5-fluoropicolinate | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)F)C1=C(C=CC(=N1)C(=O)OC)F)F | C20H14F3NO3
